US06900343B1
Dimethylsilanediylbis(2-methylindenyl)zirconium Monochloride mono(2-isopropyl-5-methylphenoxide) (4)
3.2 g (21 mmol) of 2-isopropyl-5-methylphenol in 20 ml of toluene/2 ml of THF were admixed at room temperature with 7.8 ml (21 mmol) of a 20% strength solution of butyllithium in toluene. The mixture was stirred for another 1 hour at 60° C. At room temperature, 5.0 g (10.5 mmol) of dimethylsilanediylbis(2-methylindenyl)zirconium dichloride were added as a solid. The suspension was stirred at 100° C. for 2 hours and subsequently filtered hot through Celite. The filter cake was extracted twice with 25 ml each time of toluene (100° C.). After evaporation of the solvent, the yellow solid which had precipitated was filtered off and dried under reduced pressure. This gave 1.36 g (22%) of dimethylsilanediylbis(2-methylindenyl)zirconium monochloride mono(2-isopropyl-5-methylphenoxide) (4).

reactant | 2-isopropyl-5-methylphenol | 21 mmol, 3.2 g | C(C)(C)C1=C(C=C(C=C1)C)O | C10H14O
reactant | THF | C1CCOC1 | C4H8O
reactant | butyllithium | C(CCC)[Li]
reactant | dimethylsilanediylbis(2-methylindenyl)zirconium dichloride | 10.5 mmol, 5.0 g | [Cl-].[Cl-].C[Zr](C1C(=CC2=CC=CC=C12)C)(C1C(=CC2=CC=CC=C12)C)(=[SiH2])C
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Dimethylsilanediylbis(2-methylindenyl)zirconium Monochloride mono(2-isopropyl-5-methylphenoxide) | C(C)(C)C1=C([O-])C=C(C=C1)C.[Cl-].C[Zr](C1C(=CC2=CC=CC=C12)C)(C1C(=CC2=CC=CC=C12)C)(=[SiH2])C | InChI=1S/C10H14O.2C10H9.2CH3.ClH.H2Si.Zr/c1-7(2)9-5-4-8(3)6-10(9)11;2*1-8-6-9-4-2-3-5-10(9)7-8;;;;;/h4-7,11H,1-3H3;2*2-7H,1H3;2*1H3;1H;1H2;/p-2
